US09233985B2
While under nitrogen, a stirred solution of tert-butyl (3R,4S)-3-acetamido-3-(tert-butylcarbamoyl)-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl]pyrrolidine-1-carboxylate (400 mg, 0.807 mmol) in anhydrous THF (5 mL) was treated with 4 M HCl in 1,4-dioxane (3.03 mL, 12.1 mmol). After 2.5 h, the mixture was diluted with diethyl ether (15 mL) and filtered, washed with additional ether and concentrated to give (3R,4S)-3-acetamido-N-tert-butyl-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl]pyrrolidine-3-carboxamide hydrochloride (340 mg, 97%) as a white solid. 1H NMR (D2O, 400 MHz) δ 4.11 (d, J=12 Hz, 1 H), 3.58 (dd, J=11.5, 7.7 Hz, 1 H), 3.19 (d, J=12 Hz, 1 H), 3.01 (t, J=11.5, 1 H), 2.42 (m, 1 H), 1.92 (s, 3 H), 1.52 (m, 1 H), 1.30 (m, 2 H), 1.19 (s, 9 H), 1.16 (s, 12 H), 1.08 (m, 1 H), 0.75 (m, 2 H). LC-MS gives ESI+ MS found for C20H38BN3O4 m/z 396.1 (M+H).

reactant | tert-butyl (3R,4S)-3-acetamido-3-(tert-butylcarbamoyl)-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl]pyrrolidine-1-carboxylate | 0.807 mmol, 400 mg | C(C)(=O)N[C@]1(CN(C[C@@H]1CCCB1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C)C(NC(C)(C)C)=O | C25H46BN3O6
reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 12.1 mmol, 3.03 mL | O1CCOCC1 | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
product | (3R,4S)-3-acetamido-N-tert-butyl-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl]pyrrolidine-3-carboxamide hydrochloride | 340 mg, 97% | Cl.C(C)(=O)N[C@]1(CNC[C@@H]1CCCB1OC(C(O1)(C)C)(C)C)C(=O)NC(C)(C)C | InChI=1S/C20H38BN3O4.ClH/c1-14(25)23-20(16(26)24-17(2,3)4)13-22-12-15(20)10-9-11-21-27-18(5,6)19(7,8)28-21;/h15,22H,9-13H2,1-8H3,(H,23,25)(H,24,26);1H/t15-,20-;/m0./s1
